US08835428B2
Step 4. Ethyl 3-(4-(benzyloxy)phenyl)isoxazole-5-carboxylate
To (E)-4-(benzyloxy)-N-hydroxybenzimidoyl chloride (7.8 g) in Toluene (78 ml), Ethyl propiolate (7.25 ml) was added and stirred. To this, Et3N (4.58 ml) was added dropwise since reaction was exothermic and the reaction mixture was then heated to 80° C. for 2 hours. The reaction mixture was cooled, diluted with Ethyl acetate and washed successively with 0.1M Aqueous HCl, water and brine. Organic layer was collected and concentrated to obtain dark brown residue which was purified by column chromatography (silica gel, DCM) to obtain pale brown solid which was crystallized from DCM-Petroleum ether to obtain the title compound as off white solid. Yield: 2.83 g (29%); MS (ES+): m/z 324 (M+1); 1HNMR (CDCl3; 300 MHz): δ 7.8 (d, 2H), 7.36-7.47 (m, 5H), 7.28 (s, 1H), 7.1 (d, 2H), 5.14 (s, 2H), 4.48 (q, 2H), 1.45 (t, 3H).

reactant | (E)-4-(benzyloxy)-N-hydroxybenzimidoyl chloride | 7.8 g | C(C1=CC=CC=C1)OC1=CC=C(/C(=N\O)/Cl)C=C1 | C14H12ClNO2
reactant | Et3N | 4.58 ml | CCN(CC)CC | C6H15N
reactant | Ethyl propiolate | 7.25 ml | C(C#C)(=O)OCC | C5H6O2
solvent | Toluene | 78 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-(4-(benzyloxy)phenyl)isoxazole-5-carboxylate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NOC(=C1)C(=O)OCC | C19H17NO4
